US03973022
45 ml of cinnamaldehyde are added dropwise to a mixture of 38 g of p-aminophenylacetic acid, 71 g of arsenic acid and 300 ml of phosphoric acid. The reaction mixture is stirred for 2 hours at 120°C, 50 ml of polyphosphoric acid are then added and the whole is again stirred for 16 hours at 110°-120°C. The reaction mixture is cooled to 0°C and adjusted to a pH of 5-6 first with 2 N sodium hydroxide solution and then with solid sodium carbonate. This suspension is extracted with ethyl acetate and the organic phases are then extracted 6 times with 50 ml of 1 N hydrochloric acid at a time. The hydrochloric extracts are combined and a few pinches of sodium nitrite are added. The solution is left to stand for 15 minutes at room temperature and is then adjusted to pH 5.6, using a pH-meter, by adding sodium carbonate. This solution is extracted with ethyl acetate and the organic layers are washed with water, dried over sodium sulphate and evaporated. The residue obtained is crude 2-phenyl-6-quinolineacetic acid. Melting point 176°-179°C (from methanol-pentane). α-Methyl-2-phenyl-6-quinolineacetic acid of melting point 161°-162°C (from ethanol-water) is obtained analogously.

reactant | cinnamaldehyde | 45 ml | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | p-aminophenylacetic acid | 38 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | arsenic acid | 71 g | [As](O)(O)(O)=O | AsH3O4
reactant | phosphoric acid | 300 ml | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-phenyl-6-quinolineacetic acid | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)CC(=O)O | C17H13NO2
solvent | ethanol water | C(C)O.O
solvent | methanol pentane | CO.CCCCC
product | α-Methyl-2-phenyl-6-quinolineacetic acid | CC(C(=O)O)C=1C=C2C=CC(=NC2=CC1)C1=CC=CC=C1 | C18H15NO2
